US06960586B2
Production of 6-bromo-1-formyl-2-naphthyl trifluoromethanesulfonate
6-Bromo-2-hydroxy-1-naphthaldehyde (7.53 g) and triethylamine (9.20 ml) were dissolved in dichloromethane (150 ml) and N-phenyltrifluoromethanesulfonimide (11.25 g) was added by small portions with cooling in an ice bath. The reaction mixture was stirred at the same temperature for 1 hr. and then at room temperature for 6 hrs. The solvent was evaporated. Water was added to the residue and the mixture was extracted with ethyl acetate. The extracted layer was washed successively with 10% citric acid, water and saturated aqueous sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (carrier: silica gel, developing solvent: dichloromethane) and the obtained crystals were washed with diisopropyl ether to give the title compound (9.15 g) as pale-brown crystals.

reactant | 6-Bromo-2-hydroxy-1-naphthaldehyde | 7.53 g | BrC=1C=C2C=CC(=C(C2=CC1)C=O)O | C11H7BrO2
reactant | triethylamine | 9.20 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 11.25 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 6-bromo-1-formyl-2-naphthyl trifluoromethanesulfonate | 9.15 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)Br)C=O)(F)F | C12H6BrF3O4S
